US07244725B2
CeCl3 (4.9 g, 19.8 mmol) was dried in vacuo at 140° C. for 3 h and then slurried with dry THF (100 ml) for 1 h. The white suspension was chilled to −78° C. followed by the addition of MeLi.LiBr (14.2 ml, 21.4 mmol) over 15 minutes. The mixture was stirred for 30 min followed by the addition of a THF (20 ml) solution of 6-iodo-2,3-dihydro-4H-chromen-4-one dropwise via syringe. After 30 min TLC (15% EtOAc/hexanes) indicated complete reaction. The mixture was treated with NH4Cl (aq.) 30 ml and diluted with water 150 ml. The mixture was extracted with EtOAc and the organic layer dried over Na2SO4. The Na2SO4 was removed by filtration and the filtrate concentrated in vacuo to yield 6-iodo-4-methylchroman-4-ol as an off white solid 4.7 g (95%). HRMS (ESI+) calcd for C10H11IO2 m/z 289.9806 (M+H)+. Found 289.9803.

reactant | MeLi | [Li]C
reactant | LiBr | 21.4 mmol, 14.2 ml | [Li+].[Br-]
reactant | 6-iodo-2,3-dihydro-4H-chromen-4-one | IC=1C=C2C(CCOC2=CC1)=O | C9H7IO2
reactant | NH4Cl | 30 ml | [NH4+].[Cl-]
solvent | water | 150 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-iodo-4-methylchroman-4-ol | IC=1C=C2C(CCOC2=CC1)(O)C | C10H11IO2
